US08138183B2
2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidine
Methanesulfinic acid, sodium salt (11.75 g, 115.11 mmol) was added in one portion to 2-chloro-4-(iodomethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine (37 g, 104.64 mmol), in acetonitrile (900 mL) and the resulting solution stirred at 85° C. for 24 hours. The organic layers were combined and washed with water (3×100 mL), dried over MgSO4, filtered, and the solvent was removed by evaporation to give the crude product as a dark brown oil, which solidifed (36 g). The crude solid was purified by flash silicachromatography, elution gradient 0 to 30% ethyl acetate in DCM, to give the desired material (22 g) as a cream solid which was identical to previous samples.

reactant | Methanesulfinic acid | CS(=O)O | CH4O2S
reactant | sodium | 115.11 mmol, 11.75 g | [Na] | Na
reactant | 2-chloro-4-(iodomethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine | 104.64 mmol, 37 g | ClC1=NC(=CC(=N1)CI)N1[C@H](COCC1)C | C10H13ClIN3O
solvent | acetonitrile | 900 mL | C(C)#N | C2H3N
product | 2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidine | 22 g | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)CS(=O)(=O)C | C11H16ClN3O3S
